US09062048B2
Step D: tert-butyl 3-(2-(((benzyloxy)carbonyl)amino)acetamido)azetidine-1-carboxylate
A mixture of commercially available 2-(((benzyloxy)carbonyl)amino)acetic acid (6.70 g, 32.0 mmol) and EDCI (8.42 g, 43.9 mmol) was stirred in anhydrous DCM for 15 minutes and then added to a solution of commercially available tert-butyl 3-aminoazetidine-1-carboxylate (5.02 g, 29.1 mmol) and HOBt (4.45 g, 29.0 mmol, mono hydrate). The reaction mixture was stirred at room temperature overnight and then concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with saturated ammonium chloride solution, 1 N NaOH solution, brine and the organic layer dried over Na2SO4. After concentration in vacuo, the residue was purified by flash chromatography (silica gel, 0%-5% MeOH/EtOAc) to give a white solid after drying under high vacuum.

reactant | 2-(((benzyloxy)carbonyl)amino)acetic acid | 32.0 mmol, 6.70 g | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | EDCI | 43.9 mmol, 8.42 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | tert-butyl 3-aminoazetidine-1-carboxylate | 29.1 mmol, 5.02 g | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
reactant | HOBt | 29.0 mmol, 4.45 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-(2-(((benzyloxy)carbonyl)amino)acetamido)azetidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)NCC(=O)NC1CN(C1)C(=O)OC(C)(C)C | C18H25N3O5
